US06995263B2
e] [2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol
g (3.39 mmol) of 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester in 7 ml of abs. THF were cooled down to 0° C. and reacted with 7.06 ml of DIBAL-H solution (1.2 M in toluene, 2.5 eq.) for 1 h. Careful quenching with ice/NH4Cl, twofold extraction with AcOEt, washing with brine, drying over sodium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2, hexane/AcOEt=7/3) to deliver 0.875 g of the title compound as off-white solid, mp. 76–78° C.

reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 3.39 mmol | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C15H12F3NO2
reactant | DIBAL-H | 1.2 M, 7.06 ml, 2.5 eq. | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | [2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
